USRE029339
Preparation of dodecyl dimethyl amine
50 grams of the said catalyst is charged into a reactor tube, for example as shown and described in O.S. II page 389, and the tube is heated preferably to 360° C. and it is well to condition the tube with a flow of air (as about 500 ml. per minute) for a period of hours. The air flow then is discontinued, and approximately two milli-equivalents of dimethyl amine and 1 milli-equivalent of dodecyl alcohol, per minute, are simultaneously charged into the reactor tube. The outflow is essentially 95% dodecyl amine and 5% dodecene, as determined by G.L.C. If any dodecyl alcohol is present in the product, this indicates that the through-put was too fast, and the residence time of the reacting materials in the tube or column may be set at about 30 seconds.

reactant | dimethyl amine | approximately two milli-equivalents | CNC | C2H7N
reactant | dodecyl alcohol | 1 milli-equivalent | C(CCCCCCCCCCC)O | C12H26O
reactant | dodecyl amine | C(CCCCCCCCCCC)N | C12H27N
reactant | dodecene | C=CCCCCCCCCCC | C12H24
product | dodecyl dimethyl amine | C(CCCCCCCCCCC)N(C)C | C14H31N
